US05434326
A benzene-propylene alkylation process which comprises contacting benzene with a propylene feedstock, at alkylation conditions comprising a temperature of from about 100° to 275° C., a pressure of from about 100 kPa to 13 MPa, and a liquid hourly space velocity of from about 0.5 to 50 hr-1, with a catalytic composition comprising a MgAPSO molecular sieve, said sieve comprising from about 0.003 to 0.035 mol fraction of magnesium in the microporous crystalline framework structure, to obtain a cumene product.

reactant | benzene propylene | C1=CC=CC=C1.C=CC
reactant | propylene | C=CC | C3H6
reactant | magnesium | [Mg] | Mg
solvent | benzene | C1=CC=CC=C1 | C6H6
product | cumene | C1(=CC=CC=C1)C(C)C | C9H12
